US07772253B2
1H-indole-4-carboxylic acid[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-amide
The title compound (13 mg, 32%) was prepared analogously to example 1 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with indole-4-carboxylic acid. MS: 412.4 (MH+)

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | indole-4-carboxylic acid | N1C=CC=2C(=CC=CC12)C(=O)O | C9H7NO2
product | 1H-indole-4-carboxylic acid[1-(4-chloro-3-ethoxy-benzyl)piperidin-4-yl]-amide | 13 mg, 32% | ClC1=C(C=C(CN2CCC(CC2)NC(=O)C=2C=3C=CNC3C=CC2)C=C1)OCC | C23H26ClN3O2
